US04086423
One millimole of α-methoxy-N-(2-thienylacetyl)glycine in 10 ml methylene chloride at 0° is treated successively with one millimole each of triethylamine and isobutyl chloroformate, forming α-methoxy-N-(2-thienylacetyl)glycyl i-butyl carbonate. To this solution at -78° is added p-methoxybenzyl-5-N,N-di(p-methoxybenzyl)aminocarbonyloxymethyl 6H-1,3-thiazine-4-carboxylate, and then a second millimole of triethylamine. The reaction mixture is allowed to warm to room temperature over one hour, and kept at 25° one hour. The mixture is then washed successively with aqueous pH 2 buffer, water, and aqueous bicarbonate, dried with MgSO4, filtered and evaporated, affording p-methoxybenzyl 7-methoxy-7-(2-thienylacetamido)-3-N,N-di(p-methoxybenzyl)aminocarbonyloxymethyl decephalosporanate, which may be purified if desired by chromatography on silica gel, eluting with 4:1 chloroformethyl acetate.

reactant | α-methoxy-N-(2-thienylacetyl)glycine | One millimole | COC(NC(CC=1SC=CC1)=O)C(=O)O | C9H11NO4S
reactant | triethylamine | one millimole | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | α-methoxy-N-(2-thienylacetyl)glycyl i-butyl carbonate | C(OC(C(NC(CC=1SC=CC1)=O)OC)=O)(OCC(C)C)=O | C14H19NO6S
